US06348461B1
Ethyl 3,4-dihydro-7-(4-(hydroxymethyl)imidazole-1-yl)-3-oxo-6-trifluoromethylquinoxaline-2-carboxylate
To a solution of 4-(4-(hydroxymethyl)imidazole-1-yl)-5-trifluoromethyl-1,2-phenylenediamine (200 mg, 781 μmol) in ethanol (10 ml) was added diethyl ketomalonate (142 μl, 937 μmol), and the mixture was refluxed for 4 hours. After cooling, solvent was distilled off and the residue obtained was purified by means of silica gel column chromatography [methylene chloride-methanol (50:1→10:1)] to obtain 129 mg of the the title compound as pale yellow powder. Yield 43%.

reactant | 4-(4-(hydroxymethyl)imidazole-1-yl)-5-trifluoromethyl-1,2-phenylenediamine | 781 μmol, 200 mg | OCC=1N=CN(C1)C1=CC(=C(C=C1C(F)(F)F)N)N | C11H11F3N4O
reactant | diethyl ketomalonate | 937 μmol, 142 μl | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 3,4-dihydro-7-(4-(hydroxymethyl)imidazole-1-yl)-3-oxo-6-trifluoromethylquinoxaline-2-carboxylate | Yield 43% | OCC=1N=CN(C1)C1=C(C=C2NC(C(=NC2=C1)C(=O)OCC)=O)C(F)(F)F | C16H13F3N4O4
